US09302989B2
N5-(2-methoxyethyl)-N2-{4-[(propylamino)carbonyl]phenyl}-1,3-dihydro-2H-isoindole-2,5-dicarboxamide
The title compound was prepared as described in Example 1C, substituting 2-methoxyethanamine for 3-phenylpropan-1-amine and 2-{[4-(propylcarbamoyl)phenyl]carbamoyl}isoindoline-5-carboxylic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.61 (s, 1H), 8.54 (d, J=5.3 Hz, 1H), 8.26 (t, J=5.7 Hz, 1H), 7.79-7.85 (m, 2H), 7.73-7.80 (m, 2H), 7.63-7.67 (m, 2H), 7.45 (d, J=7.8 Hz, 1H), 4.81-4.83 (bs, 4H), 3.39-3.51 (m, 4H), 3.27 (s, 3H), 3.03-3.22 (m, 2H), 1.46-1.59 (m, 2H), 0.89 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 425 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 2-{[4-(propylcarbamoyl)phenyl]carbamoyl}isoindoline-5-carboxylic acid | C(CC)NC(=O)C1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)O | C20H21N3O4
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N5-(2-methoxyethyl)-N2-{4-[(propylamino)carbonyl]phenyl}-1,3-dihydro-2H-isoindole-2,5-dicarboxamide | COCCNC(=O)C=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(=O)NCCC | C23H28N4O4
